US03950333
Reaction of 3-amino-1,2,4-thiadiazole with 3-phthalimidopropyl bromide and hydrazinolysis of the product gives 3-(3-aminopropylamino)-1,2,4-thiadiazole and from this intermediate N-cyano-N'-methyl-N"-[3-(3-(1,2,4-thiadiazolyl)amino)propyl]guanidine is prepared.

reactant | 3-amino-1,2,4-thiadiazole | NC1=NSC=N1 | C2H3N3S
reactant | 3-phthalimidopropyl bromide | C1(C=2C(C(N1CCCBr)=O)=CC=CC2)=O | C11H10BrNO2
product | 3-(3-aminopropylamino)-1,2,4-thiadiazole | NCCCNC1=NSC=N1 | C5H10N4S
